US07902356B2
3-Methoxy-4-triisopropylsilanyloxy-Phenylamine
Dissolve triisopropyl-(2-methoxy-4-nitro-phenoxy)-silane (95.7 g, 294.0 mmol) in EtOH (1800 mL) and add 5% Pd/C (10.0 g). Hydrogenate the slurry at room temperature under 50 psi hydrogen for 8 h. Filter the slurry through a pad of Celite® and rinse with EtOH. Concentrate the filtrate in vacuo to give a brown oil. Purify by flash chromatography, using a gradient from 100% hexanes to 20% EtOAc/hexanes, to give the title compound as a brown solid (67.4 g, 77.6% yield). MS (ES+) 296.2 (M+1)+.

reactant | triisopropyl-(2-methoxy-4-nitro-phenoxy)-silane | 294.0 mmol, 95.7 g | C(C)(C)[Si](OC1=C(C=C(C=C1)[N+](=O)[O-])OC)(C(C)C)C(C)C | C16H27NO4Si
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 1800 mL | CCO | C2H6O
catalyst | Pd/C | 10.0 g | [Pd] | Pd
product | 3-Methoxy-4-triisopropylsilanyloxy-Phenylamine | 67.4 g, 77.6% yield | COC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)N | C16H29NO2Si
